US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2-fluoro-3-(pyridin-4-yl)benzeneboronic acid as described in Example 1 to give 3-[2-fluoro-3-(pyridin-4-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a white solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (400 MHz, DMSO) 7.64-7.70 (2H, m), 7.95-8.01 (2H, m), 8.37 (1H, s), 8.39 (2H, s), 9.05-9.07 (2H, m), 9.40 (1H, dd, J 7 and 3); m/z (ES+) 359 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2-fluoro-3-(pyridin-4-yl)benzeneboronic acid | FC1=C(C=CC=C1C1=CC=NC=C1)B(O)O | C11H9BFNO2
product | 3-[2-fluoro-3-(pyridin-4-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=CC=C1C1=CC=NC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H10F4N4
